US05142056
A. 3-Hydroxy- 5-phenyl-1-pentene
Vinylmagnesium Bromide (120 mmol, 1M) in ether was added to 80 ml of dry tetrahydrofuran and cooled under inert atmosphere to 0° C. Hydrocinnamaldehyde (8.0 ml, 61 mmol) was added dropwise, and the solution was stirred for 10 min, quenched cautiously with saturated aqueous ammonium chloride, extracted with ether, washed with saturated brine, dried over MgSO4, and concentrated to give 9.82 g (98.6%) of the crude desired product.

reactant | Vinylmagnesium Bromide | 120 mmol, 1M | C(=C)[Mg]Br
reactant | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
reactant | Hydrocinnamaldehyde | 61 mmol, 8.0 ml | C(CCC1=CC=CC=C1)=O | C9H10O
solvent | ether | CCOCC | C4H10O
product | 3-Hydroxy- 5-phenyl-1-pentene | 9.82 g, 98.6% | OC(C=C)CCC1=CC=CC=C1 | C11H14O
